US05025031
Sulfamic acid 2-[4-(2H-1,2,4-triazol-2-yl)-phenoxy]ethyl ester
A solution of 8.2 g (0.04 mole) of 2-[4-(1H-1,2,4-triazol-1-yl)phenoxy]ethanol in 100 ml of acetonitrile was treated with a solution of 1.3 equivalents of sulfamoyl chloride in 19 ml of acetonitrile. One equivalent, 5.2 g (0.04 mole), of diisopropylethylamine was also added in one portion. The mixture was stirred for 2 hr. The precipitate was collected and partitioned between ethyl acetate and a dilute potassium carbonate solution. The organic layer was separated and concentrated to a white powder. The powder was triturated with ethyl ether, collected and dried to give 6.3 g (55%) of white powder, mp 134°-136° C.

reactant | 2-[4-(1H-1,2,4-triazol-1-yl)phenoxy]ethanol | 0.04 mole, 8.2 g | N1(N=CN=C1)C1=CC=C(OCCO)C=C1 | C10H11N3O2
reactant | sulfamoyl chloride | 1.3 equivalents | S(N)(=O)(=O)Cl | ClH2NO2S
reactant | diisopropylethylamine | C(C)(C)N(CC)C(C)C | C8H19N
solvent | acetonitrile | 100 ml | C(C)#N | C2H3N
solvent | acetonitrile | 19 ml | C(C)#N | C2H3N
product | Sulfamic acid 2-[4-(2H-1,2,4-triazol-2-yl)-phenoxy]ethyl ester | 6.3 g, 55% | N=1N(C=NC1)C1=CC=C(OCCOS(N)(=O)=O)C=C1 | C10H12N4O4S
